US04988686
3-diphenylmethoxy-1-(2,2-dimethoxyethyl)-6-formyl-4pyridone
Starting from 2.052 g of 3-diphenylmethoxy-1-(2,2-dimethoxyethyl)-6-hydroxymethyl-4-pyridone and 12.0 g of manganese dioxide, the title compound is obtained in the same manner as in Synthesis Example 2 as colorless crystal in a yield of 1.582 g.

reactant | 3-diphenylmethoxy-1-(2,2-dimethoxyethyl)-6-hydroxymethyl-4-pyridone | 2.052 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)CC(OC)OC)C1=CC=CC=C1 | C23H25NO5
catalyst | manganese dioxide | 12.0 g | [O-2].[O-2].[Mn+4]
product | 3-diphenylmethoxy-1-(2,2-dimethoxyethyl)-6-formyl-4pyridone | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)C=O)CC(OC)OC)C1=CC=CC=C1 | C23H23NO5
